US05686610
1-[1,1-Dimethylethoxycarbonyl]-4-[3-(1,1-dimethylpropylamino)-2-pyridinyl]piperazine
To a solution of 1-[1,1-dimethylethoxycarbonyl]-4-[3-(1,1-dimethylprop-2-ynylamino)-2-pyridinyl]piperazine (PREPARATION 65, 1.00 g) in absolute ethanol (20 ml) under nitrogen is added wet Raney Nickel (650 mg). The mixture is put under a hydrogen atmosphere at 40 psi (Parr) for 20 hr, filtered through a pad of celite, and concentrated. The residue is then taken up in methylene chloride (40 ml), washed with saline (10 ml), dried over sodium sulfate, and concentrated under reduced pressure to give the title compound, NMR (CDCl3) 7.64, 7.03, 6.85, 4.56, 3.56, 2.97, 1.71, 1.48, 1.33 and 0.88.

reactant | 1-[1,1-dimethylethoxycarbonyl]-4-[3-(1,1-dimethylprop-2-ynylamino)-2-pyridinyl]piperazine | 1.00 g | CC(C)(OC(=O)N1CCN(CC1)C1=NC=CC=C1NC(C#C)(C)C)C | C19H28N4O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Raney Nickel | 650 mg | [Ni] | Ni
product | 1-[1,1-Dimethylethoxycarbonyl]-4-[3-(1,1-dimethylpropylamino)-2-pyridinyl]piperazine | CC(C)(OC(=O)N1CCN(CC1)C1=NC=CC=C1NC(CC)(C)C)C | C19H32N4O2
